US06339087B1
A solution of 1-{1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea (0.19 g, 0.353 mmoles) in iodoethane (4 ml) was stirred overnight at 68° C. degrees under argon. The yellow mixture was concentrated in vacuo and the crude product was flash chromatographed, eluting with 3%-4% methanol/methylene chloride to give 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium iodide (0.18 g) as a yellow solid.

reactant | 1-{1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea | 0.353 mmoles, 0.19 g | ClC=1C=C(CC2CCN(CC2)C[C@@H](C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C=CC1Cl | C27H37Cl2N3O4
reactant | iodoethane | 4 ml | ICC | C2H5I
product | 4-(3,4-dichlorobenzyl)-1-ethyl-1-{3-methyl-2-[3-(3,4,5-trimethoxyphenyl)ureido]butyl}piperidinium iodide | 0.18 g | [I-].ClC=1C=C(CC2CC[N+](CC2)(CC(C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)CC)C=CC1Cl | InChI=1S/C29H41Cl2N3O4.HI/c1-7-34(12-10-20(11-13-34)14-21-8-9-23(30)24(31)15-21)18-25(19(2)3)33-29(35)32-22-16-26(36-4)28(38-6)27(17-22)37-5;/h8-9,15-17,19-20,25H,7,10-14,18H2,1-6H3,(H-,32,33,35);1H
